US07196111B2
A solution of 2.88 mL (20.5 mmol) of diisopropylamine (iPr2NH) in 50 mL of tetrahydrofuran (THF) was flushed with argon and cooled to −78° C. To this solution was added dropwise 8.2 mL (20.5 mmol) of n-butyllithium (nBuLi) 2.5 M solution in hexane, and the resulting mixture was stirred at −78° C. for 20 min, after which time a solution of 4.5 g (16.3 mmol) of (4-iodo-phenyl)-acetic acid methyl ester in 25 mL of THF was added dropwise. The mixture was allowed to warm up to rt for 40 min, then it was cooled again to −78° C., and 2.62 mL (19.6 mmol) of cyclohexanecarbonyl chloride was added dropwise, and the resulting mixture was allowed to warm up to rt, and stirred at rt overnight under argon. The reaction mixture was quenched on ice by the addition of saturated ammonium chloride solution, and extracted with ethyl acetate. The combined organic extracts were washed with water, brine, dried over sodium sulfate and concentrated to give 7 g of a burgundy oil which was chromatographed on silica gel (Biotage; 10% ethyl acetate in hexane) to afford 5.06 g (80% yield) of desired 3-cyclohexyl-2-(4-iodo-phenyl)-3-oxo-propionic acid methyl ester as a pale yellow solid as indicated by 1H NMR (1:2.6 keto:enol ratio). LC-MS—calcd for C16H19IO3 [M++H]+: 387.04, found: 387.0.

reactant | diisopropylamine | 20.5 mmol, 2.88 mL | C(C)(C)NC(C)C | C6H15N
reactant | n-butyllithium | 20.5 mmol, 2.5 M, 8.2 mL | C(CCC)[Li]
reactant | (4-iodo-phenyl)-acetic acid methyl ester | 16.3 mmol, 4.5 g | COC(CC1=CC=C(C=C1)I)=O | C9H9IO2
reactant | cyclohexanecarbonyl chloride | 19.6 mmol, 2.62 mL | C1(CCCCC1)C(=O)Cl | C7H11ClO
solvent | tetrahydrofuran | 50 mL | O1CCCC1 | C4H8O
solvent | hexane | CCCCCC | C6H14
solvent | THF | 25 mL | O1CCCC1 | C4H8O
product | 3-cyclohexyl-2-(4-iodo-phenyl)-3-oxo-propionic acid methyl ester | 5.06 g, 80% yield | COC(C(C(=O)C1CCCCC1)C1=CC=C(C=C1)I)=O | C16H19IO3
